US06855710B2
d) (Z)-3-{1-[4-(N-(2-dimethylaminoethyl)-N-isopropylsulphonyl-amino]-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 36 from (Z)-3-{1-[4-(isopropylsulphonylamino)-phenylamino]-1-phenyl-methylidene}-2-indolinone, 1-chloro-2-dimethylamino-ethane, potassium carbonate and sodium iodide in acetone.

reactant | (Z)-3-{1-[4-(isopropylsulphonylamino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | C(C)(C)S(=O)(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H23N3O3S
reactant | 1-chloro-2-dimethylamino-ethane | ClCCN(C)C | C4H10ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | (Z)-3-{1-[4-(N-(2-dimethylaminoethyl)-N-isopropylsulphonyl-amino]-phenylamino]-1-phenyl-methylidene}-2-indolinone | CN(CCN(S(=O)(=O)C(C)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C28H32N4O3S
